US06150351
To a mixture of ethyl 4-(bromoacetyl)benzoate (2 g), water (15 ml) and ethanol (14 ml) was added ammonium dithiocarbamate (813 mg) under stirring at room temperature. The stirring was continued for 1 hour at the same temperature and the resulting crystal was collected by filtration. The crystal was added to a mixture of water (15 ml) and ethanol (15 ml), and the mixture was refluxed for 1.5 hours under stirring. The stirring was continued for 30 minutes at 10° C. to give crystal, which were collected by filtration and dried, to give ethyl 4-(2-mercaptothiazol-4-yl)benzoate (1.15 g).

reactant | ethyl 4-(bromoacetyl)benzoate | 2 g | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
reactant | water | 15 ml | O | H2O
reactant | ammonium dithiocarbamate | 813 mg | C(N)([S-])=S.[NH4+]
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | ethyl 4-(2-mercaptothiazol-4-yl)benzoate | 1.15 g | SC=1SC=C(N1)C1=CC=C(C(=O)OCC)C=C1 | C12H11NO2S2
